US04356185
3-Bromo-3-(4-chlorobenzyl)propionate acid and an equimolar amount of 4-valeryloxythio-benzamide are stirred in isopropyl alcohol solvent containing sodium carbonate to give 4-(4-chlorophenyl)-4-hydroxy-2-(4-valeryloxyphenyl)-2-thiazolin-5-acetic acid. This compound is dehydrated by heating to give the title compound.

reactant | 3-Bromo-3-(4-chlorobenzyl)propionate | BrC(CC(=O)[O-])CC1=CC=C(C=C1)Cl
reactant | 4-valeryloxythio-benzamide | C(CCCC)(=O)OC1=CC=C(C(=S)N)C=C1 | C12H15NO2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 4-(4-chlorophenyl)-4-hydroxy-2-(4-valeryloxyphenyl)-2-thiazolin-5-acetic acid | ClC1=CC=C(C=C1)C1(N=C(SC1CC(=O)O)C1=CC=C(C=C1)OC(CCCC)=O)O | C22H22ClNO5S
